US05273982
rac-N-(t-butoxycarbonyl)piperidine-3-carboxylic acid (Can. J. Physiol. Pharmacol. 57, 1979, 763) in THF was activated with chlorodimethoxytriazine and N-methyl-morpholine and then coupled with β-alanine benzyl ester p-toluenesulphonate (J. Org. Chem. 17, 1952, 1564) and N-methylmorpholine to give rac-N-[[1-(t-butoxycarbonyl)-3-piperidinyl]-carbonyl]-β-alanine benzyl ester, m.p. 57°-59° C.

reactant | rac-N-(t-butoxycarbonyl)piperidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | chlorodimethoxytriazine | ClC=1C(=NN=NC1OC)OC | C5H6ClN3O2
reactant | N-methyl-morpholine | CN1CCOCC1 | C5H11NO
reactant | β-alanine benzyl ester p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CCN)=O
solvent | THF | C1CCOC1 | C4H8O
product | rac-N-[[1-(t-butoxycarbonyl)-3-piperidinyl]-carbonyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(=O)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C21H30N2O5
